US04649146
A solution of sulfuryl chloride (2.84 g) in methylene chloride (5 ml) was dropwise added to a solution of ethyl 4-(3-pyridyl)-2,4-dioxo-butyrate (4.42 g) in methylene chloride (40 ml) at 18° C. to 30° C. After being stirred at ambient temperature for one hour, the mixture was added to a solution of thiourea (4.56 g) in a mixture of tetrahydrofuran (50 ml) and water (10 ml). The resulting mixture was adjusted to pH 7.5 with 20% aqueous potassium carbonate and stirred for one hour, and then the solvent was removed in vacuo. To the residue was added a mixture of water and ethyl acetate, and the mixture is acidified to pH 1.0 with 10% hydrochloric acid. The separated aqueous layer was adjusted to pH 9.0 with 20% aqueous potassium carbonate and extracted with ethyl acetate. The extract was dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give ethyl 2-amino-5-nicotinoyl-4-thiazolecarboxylate (0.9 g). mp 221° C. (dec.)

reactant | sulfuryl chloride | 2.84 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | ethyl 4-(3-pyridyl)-2,4-dioxo-butyrate | 4.42 g | N1=CC(=CC=C1)C(CC(C(=O)OCC)=O)=O | C11H11NO4
reactant | thiourea | 4.56 g | NC(=S)N | CH4N2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | ethyl 2-amino-5-nicotinoyl-4-thiazolecarboxylate | 0.9 g | NC=1SC(=C(N1)C(=O)OCC)C(C1=CN=CC=C1)=O | C12H11N3O3S
